US05753676
7,8-Dihydro-6-(4-acetamidophenyl)methylidene-3-methylquinolin-5-one
7,8-Dihydro-3-methylquinoline-5[6H]one (8 g) was mixed with 4-acetamidobenzaldehyde (9 g) and piperidine (0.5 ml) and heated at 110° C. for 3 hours. Ethyl acetate (30 ml) was added to the hot reaction mixture and the mixture allowed to cool. Crystals formed and were isolated by filtration, then washed with diethyl ether to give the title compound (11.2 g). A portion was recrystallised from ethyl acetate to give an analytical sample, mp 226°-228° C.

reactant | 7,8-Dihydro-3-methylquinoline-5[6H]one | 8 g | CC=1C=NC=2CCCC(C2C1)=O | C10H11NO
reactant | 4-acetamidobenzaldehyde | 9 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 7,8-Dihydro-6-(4-acetamidophenyl)methylidene-3-methylquinolin-5-one | 11.2 g | C(C)(=O)NC1=CC=C(C=C1)C=C1C(C=2C=C(C=NC2CC1)C)=O | C19H18N2O2
